US04151302
1 g. of 3-(3',4'-dichloro-4-biphenylyl)-3-hydroxybutyric acid ethyl ester and 0.2 g. of NaOH in 40 ml. of isopropanol are left to stand for 24 hours and the mixture is worked up to give 3-(3',4'-dichloro-4-biphenylyl)-3-hydroxybutyric acid, m.p. 124°-126°.

reactant | 3-(3',4'-dichloro-4-biphenylyl)-3-hydroxybutyric acid ethyl ester | C(C)OC(CC(C)(O)C1=CC=C(C=C1)C1=CC(=C(C=C1)Cl)Cl)=O | C18H18Cl2O3
reactant | NaOH | [OH-].[Na+]
solvent | isopropanol | C(C)(C)O | C3H8O
product | 3-(3',4'-dichloro-4-biphenylyl)-3-hydroxybutyric acid | ClC=1C=C(C=CC1Cl)C1=CC=C(C=C1)C(CC(=O)O)(C)O | C16H14Cl2O3
